US07601716B2
4-(1-Benzoyl-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl)benzoic acid ethyl ester
(7-Iodo-3,4-dihydro-2H-pyrido[2,3-b]pyrazin-1-yl)phenylmethanone (215 mg) was reacted with 4-ethoxycarbonyl phenyl boronic acid as in General Procedure 4A to give the title compound as an off-white solid (32% yield). M.p. 177-178° C., LCMS: m/z=388.23 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 1.38 t, (J=7.1 Hz, 3H), 3.67-3.72 (m, 2H), 4.01-4.08 (m, 2H), 4.36 (q, J=7.1 Hz, 2H), 5.21 (bs, 1H), 7.12-7.16 (m, 2H), 7.40-7.53 (m, 5H), 7.95 (d, J=8.3 Hz, 2H), 8.08 (s, 1H).

reactant | (7-Iodo-3,4-dihydro-2H-pyrido[2,3-b]pyrazin-1-yl)phenylmethanone | 215 mg | IC1=CC2=C(NCCN2C(=O)C2=CC=CC=C2)N=C1 | C14H12IN3O
reactant | 4-ethoxycarbonyl phenyl boronic acid | C(C)OC(=O)C1=CC=C(C=C1)B(O)O | C9H11BO4
product | 4-(1-Benzoyl-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl)benzoic acid ethyl ester | 32% yield | C(C)OC(C1=CC=C(C=C1)C1=CC2=C(NCCN2C(C2=CC=CC=C2)=O)N=C1)=O | C23H21N3O3
